US07585886B2
1,1′-Carbonylbisimidazole was added to a THF solution of 5-oxo-1-phenylpyrrolidine-3-carboxylic acid and stirred at room temperature for 1.5Hours. Successively sodium borohydride and 2.0 ml of water were added thereto and stirred at room temperature for 1Hour. Thereafter, its work-up and purification were carried out in the standard method to obtain 4-(hydroxymethyl)-1-phenylpyrrolidin-2-one. EP: 192.

reactant | 1,1′-Carbonylbisimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | C1CCOC1 | C4H8O
reactant | 5-oxo-1-phenylpyrrolidine-3-carboxylic acid | O=C1CC(CN1C1=CC=CC=C1)C(=O)O | C11H11NO3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | 2.0 ml | O | H2O
product | 4-(hydroxymethyl)-1-phenylpyrrolidin-2-one | OCC1CC(N(C1)C1=CC=CC=C1)=O | C11H13NO2
